### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology): cylinder objects in model categories

### PR DESCRIPTION
**Pull request by joelriou**
We introduce a notion of (pre)cylinder for an object `A : C` in a model category. It consists of an object `I`, a weak equivalence `π : I ⟶ A` equipped with two sections `i₀` and `i₁`. This notion shall be important in the definition of "left homotopies" in model categories.

---

- [x] depends on: #26166 

This PR continues the work from #20689.

Original PR: https://github.com/leanprover-community/mathlib4/pull/20689

### CODE REVIEW

**Comment by joelriou** [comment]
## Comments from Original PR #20689

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-01-12 18:24 UTC](https://github.com/leanprover-community/mathlib4/pull/20689#issuecomment-2585859595)):
### PR summary [b460d7faf0](https://github.com/leanprover-community/mathlib4/pull/20689/commits/b460d7faf0c2782bdf919af1545d0275fd4743ce)

Import changes exceeding 2%

| %      | File |
| -      | -    |
| +10.42% | `Mathlib.AlgebraicTopology.ModelCategory.Basic` |

<details><summary>

#### Import changes for modified files

</summary>

Dependency changes

| File | Base Count | Head Count | Change |
| --- | --- | --- | --- |
| Mathlib.AlgebraicTopology.ModelCategory.Basic | 595 | 657 | +62 (+10.42%) |


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
| `Mathlib.AlgebraicTopology.ModelCategory.Basic`|62|
| `Mathlib.AlgebraicTopology.ModelCategory.Instances` (new file)|656|
| `Mathlib.AlgebraicTopology.ModelCategory.IsFibrant` (new file)|657|
| `Mathlib.AlgebraicTopology.ModelCategory.Cylinder` (new file)|659|

</details>

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ Cylinder`
`+ IsCofibrant`
`+ IsFibrant`
`+ IsGood`
`+ IsPushout.of_coprod_inl_with_id`
`+ IsVeryGood`
`+ cofibrations_isStableUnderCoproductsOfShape`
`+ cofibrations_rlp`
`+ exists_very_good_cylinder`
`+ fibrations_isStableUnderProductsOfShape`
`+ fibrations_llp`
`+ i`
`+ inl_i`
`+ inr_i`
`+ instance : (cofibrations C).IsMultiplicative := by`
`+ instance : (cofibrations C).IsStableUnderCobaseChange := by`
`+ instance : (fibrations C).IsMultiplicative := by`
`+ instance : (fibrations C).IsStableUnderBaseChange := by`
`+ instance : (ofFactorizationData h).IsVeryGood`
`+ instance : (trivialCofibrations C).IsMultiplicative := by`
`+ instance : (trivialCofibrations C).IsStableUnderCobaseChange := by`
`+ instance : (trivialFibrations C).IsMultiplicative := by`
`+ instance : (trivialFibrations C).IsStableUnderBaseChange := by`
`+ instance : MorphismProperty.IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)`
`+ instance : MorphismProperty.IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)`
`+ instance : WeakEquivalence P.i₀`
`+ instance : WeakEquivalence P.i₁`
`+ instance : WeakEquivalence h.i := by`
`+ instance : WeakEquivalence h.p := by`
`+ instance [(cofibrations C).IsStableUnderCobaseChange] [hf : Cofibration f] :`
`+ instance [(cofibrations C).IsStableUnderCobaseChange] [hg : Cofibration g] :`
`+ instance [(cofibrations C).IsStableUnderComposition]`
`+ instance [(fibrations C).IsStableUnderComposition]`
`+ instance [(weakEquivalences C).ContainsIdentities] (X : C) :`
`+ instance [(weakEquivalences C).IsStableUnderComposition]`
`+ instance [CategoryWithWeakEquivalences C] [CategoryWithCofibrations C]`
`+ instance [CategoryWithWeakEquivalences C] [CategoryWithFibrations C]`
`+ instance [HasInitial C] [HasBinaryCoproduct X Y] [hX : IsCofibrant X] :`
`+ instance [HasInitial C] [HasBinaryCoproduct X Y] [hY : IsCofibrant Y] :`
`+ instance [HasTerminal C] [IsFibrant A] [(fibrations C).IsStableUnderComposition] :`
`+ instance [IsCofibrant A] (P P' : Cylinder A) [P.IsGood] [P'.IsGood] :`
`+ instance [IsCofibrant A] [P.IsGood] : Cofibration P.i₀ := by`
`+ instance [IsCofibrant A] [P.IsGood] : Cofibration P.i₁ := by`
`+ instance [IsCofibrant A] [P.IsGood] : IsCofibrant P.I`
`+ instance [IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)] :`
`+ instance [IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)] [IsIso f] :`
`+ instance [IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)] :`
`+ instance [IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)] [IsIso f] :`
`+ instance [P.IsGood] : P.symm.IsGood`
`+ instance [P.IsVeryGood] : P.symm.IsVeryGood`
`+ isCofibrant_iff`
`+ isCofibrant_iff_of_isInitial`
`+ isCofibrant_of_cofibration`
`+ isFibrant_iff`
`+ isFibrant_iff_of_isTerminal`
`+ isFibrant_of_fibration`
`+ isPushout_of_isColimit_binaryCofan`
`+ mk'`
`+ mk'.cm3a_aux`
`+ ofFactorizationData`
`+ ofFactorizationData_i`
`+ symm`
`+ symm_i`
`+ trans`
`+ trivialCofibrations_isStableUnderCoproductsOfShape`
`+ trivialCofibrations_rlp`
`+ trivialFibrations_isStableUnderProductsOfShape`
`+ trivialFibrations_llp`
`+ weakEquivalence_of_postcomp`
`+ weakEquivalence_of_postcomp_of_fac`
`+ weakEquivalence_of_precomp`
`+ weakEquivalence_of_precomp_of_fac`
`++ instance : Cofibration h.i := by`
`++ instance : Fibration h.p := by`
`++ instance [(fibrations C).IsStableUnderBaseChange]`
`++ instance [(trivialCofibrations C).IsStableUnderCobaseChange]`
`++ instance [(trivialFibrations C).IsStableUnderBaseChange]`
`++ instance [IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)]`
`+++++ instance [IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)]`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 1]
```diff
@@ -0,0 +1,189 @@
...
+  I : C
+  /-- the first "inclusion" in the cylinder -/
+  i₀ : A ⟶ I
+  /-- the second "inclusion" in the cylinder -/
+  i₁ : A ⟶ I
+  /-- the weak equivalence of the cylinder -/
+  π : I ⟶ A
+  i₀_π : i₀ ≫ π = 𝟙 A := by aesop_cat
+  i₁_π : i₁ ≫ π = 𝟙 A := by aesop_cat
+  weakEquivalence_π : WeakEquivalence π := by infer_instance
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]: In Cisinski's book "Higher category and homotopical algebra", the notion of cylinder object appears in cases where we do not know yet that the category is a model category (not even that its class of equivalences yet!): this is because cylinders are used there as a tool when actually producing model structures, see def. 2.4.6 of said book.

I was hoping to formalize one day that approach (it gives a very nice proof of the existence of the Joyal model structure on simplicial sets), but the assumption `[ModelCategory]` makes the content of this PR unusable for this purpose, and this will just mean code duplication when I’ll get to it.

Would you accept making this structure not assuming weak equivalences on `C`, and instead work with a typeclass asserting that `π` is a weak equivalence? 
Similarly, "good" cylinders need only a `CategoryWithCofibrations`, not a full model category (in Cisinski’s setup, we do have the cofibrations: they’re the monomorphisms).

Of course, this is only a request for the definition, actually working with cylinders will require more and more assumption.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 2]
```diff
@@ -0,0 +1,189 @@
...
+
+instance [P.IsVeryGood] : P.symm.IsVeryGood where
+  fibration_π := by
+    dsimp
+    infer_instance
+
+section
+
+variable (h : MorphismProperty.MapFactorizationData (cofibrations C) (trivialFibrations C)
+    (coprod.desc (𝟙 A) (𝟙 A)))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
    (codiag A))
```

This abbreviation exists.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean [hunk 3]
```diff
@@ -1220,6 +1220,48 @@ Z --id--> Z
...
+    (fun s ↦ hc.desc (BinaryCofan.mk s.inr s.inl))
+    (fun s ↦ hc.fac (BinaryCofan.mk s.inr s.inl) ⟨.right⟩)
+    (fun s ↦ hc.fac (BinaryCofan.mk s.inr s.inl) ⟨.left⟩)
+    (fun s m h₁ h₂ ↦ by
+      apply BinaryCofan.IsColimit.hom_ext hc
+      · rw [h₂, hc.fac (BinaryCofan.mk s.inr s.inl) ⟨.left⟩]
+        rfl
+      · rw [h₁, hc.fac (BinaryCofan.mk s.inr s.inl) ⟨.right⟩]
+        rfl)⟩
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean:1264]: Can you please include the dual?

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean:1264]: (I will add the dual when I PR the definitions of path objects!)

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]: I will try to make `Precylinder` without weak equivalences, and have `Cylinder` extend `Precylinder`.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 4]
```diff
@@ -0,0 +1,262 @@
...
+/-- A precylinder for `A : C` is the data of a morphism
+`σ : I ⟶ A` equipped with two sections. -/
+structure Precylinder (A : C) where
+  /-- the underlying object of a cylinder -/
+  I : C
+  /-- the first "inclusion" in the cylinder -/
+  i₀ : A ⟶ I
+  /-- the second "inclusion" in the cylinder -/
+  i₁ : A ⟶ I
+  /-- the weak equivalence of the cylinder -/
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
  /-- the weak equivalence of the cylinder -/
```

With the redefinition, the docstring isn’t quite accurate, perhaps we can say it’s the "codiagonal" of the cylinder?

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 5]
```diff
@@ -0,0 +1,262 @@
...
+attribute [instance] weakEquivalence_π
+
+section
+
+variable {A : C} [CategoryWithWeakEquivalences C] (P : Cylinder A)
+
+/-- The cylinder object obtained by switching the two inclusions. -/
+@[simps!]
+def symm : Cylinder A where
+  toPrecylinder := P.toPrecylinder.symm
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
  __ := P.toPrecylinder.symm
```

Apparently, this is valid syntax. Your choice on whether you like it or not.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 6]
```diff
@@ -0,0 +1,262 @@
...
+  weakEquivalence_π := by dsimp; infer_instance
+
+@[simp, reassoc]
+lemma symm_i [HasBinaryCoproducts C] : P.symm.i =
+  (coprod.braiding A A).hom ≫ P.i := P.toPrecylinder.symm_i
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
@[simp, reassoc]
lemma symm_i [HasBinaryCoproducts C] : 
    P.symm.i = (coprod.braiding A A).hom ≫ P.i :=
  P.toPrecylinder.symm_i
```

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 7]
```diff
@@ -0,0 +1,262 @@
...
+@[simp, reassoc]
+lemma symm_i [HasBinaryCoproducts C] : P.symm.i =
+  (coprod.braiding A A).hom ≫ P.i := by aesop_cat
+
+end Precylinder
+
+/-- In a category with weak equivalences, a cylinder is the
+data of a weak equivalence `σ : I ⟶ A` equipped with two sections -/
+structure Cylinder [CategoryWithWeakEquivalences C] (A : C) extends Precylinder A where
+  weakEquivalence_π : WeakEquivalence π := by infer_instance
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean:107]:
```suggestion
  [weakEquivalence_π : WeakEquivalence π]
```

Feel free to ignore. I’m mainly suggesting this to ask whether or not this is equivalent syntax.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 8]
```diff
@@ -0,0 +1,262 @@
...
+instance : Nonempty (Cylinder A) := ⟨(exists_very_good A).choose⟩
+
+/-- The gluing of two good cylinders. -/
+@[simps]
+noncomputable def trans [IsCofibrant A] (P P' : Cylinder A) [P'.IsGood] :
+    Cylinder A where
+  I := pushout P.i₁ P'.i₀
+  i₀ := P.i₀ ≫ pushout.inl _ _
+  i₁ := P'.i₁ ≫ pushout.inr _ _
+  π := pushout.desc P.π P'.π (by simp)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]: Should a `:= by aesop_cat` autoparam be added to `pushout.desc` (and `pullback.lift̀`)?

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 9]
```diff
@@ -0,0 +1,262 @@
...
+  [(fibrations C).IsStableUnderComposition]
+
+instance [HasBinaryCoproduct A A] [HasTerminal C] [IsFibrant A] [P.IsVeryGood] : IsFibrant P.I :=
+  isFibrant_of_fibration P.π
+
+instance [(cofibrations C).RespectsIso] [HasBinaryCoproducts C] [P.IsVeryGood] :
+    P.symm.IsVeryGood where
+  fibration_π := by
+    dsimp
+    infer_instance
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
  fibration_π := inferInstanceAs <| Fibration P.π
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean (hunk 3 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean:1264]: Next time, I think it’s better to announce from the get-go in the PR comment/description that the undualized stuff like this intends to be dualized in near future work if this is the case, so that reviewers can know the desync between the API and its dual is not intended to sit for an unknown amount of time.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean [hunk 10]
```diff
@@ -1220,6 +1220,48 @@ Z --id--> Z
...
+A ⟶ A ⨿ X
+|     |
+v     v
+B ⟶ B ⨿ X
+```
+-/
+lemma of_coprod_inl_with_id {A B : C} (f : A ⟶ B) (X : C) [HasBinaryCoproduct A X]
+    [HasBinaryCoproduct B X] :
+    IsPushout coprod.inl f (coprod.map f (𝟙 X)) coprod.inl where
+  w := by simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean:1236]: Idem: should `CommSq.w` have an autoparam?

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 11]
```diff
@@ -0,0 +1,262 @@
...
+lemma exists_very_good :
+    ∃ (P : Cylinder A), P.IsVeryGood :=
+  ⟨ofFactorizationData (MorphismProperty.factorizationData _ _ _),
+    inferInstance⟩
+
+instance : Nonempty (Cylinder A) := ⟨(exists_very_good A).choose⟩
+
+/-- The gluing of two good cylinders. -/
+@[simps]
+noncomputable def trans [IsCofibrant A] (P P' : Cylinder A) [P'.IsGood] :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean:236]: Since `symm` is defined for precylinders, perhaps we can also split the data part and the prop part here as well? defining `Precylinder.trans` from relevant `HasPushout` instance, and then having `Cylinder.trans` only prove that in good cases like this the precylinder is a cylinder?

Admittedly, for applications of precylinders where we don’t have yet a model category, transitivity is not very important (we’re working with a fixed cylinder), but since you’ve done symmetry for precylinders, might as well be consistent with this pattern.

**Review by robin-carlier — COMMENTED** [review]
Mostly nitpicks/style comments, and a comment about `Cylinder.trans`.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean:107]: I think this should be mostly equivalent. (We tend to use more `by infer_instance`.)

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]: This could/should be done, but this is independent of this PR.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean (hunk 10 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/CommSq.lean:1236]: Yes, but this should be done in a separate PR.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean (hunk 11 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean:236]: Thanks for the suggestion.

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]: #26953

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 12]
```diff
@@ -0,0 +1,268 @@
...
+universe v u
+
+open CategoryTheory Category Limits
+
+namespace HomotopicalAlgebra
+
+variable {C : Type u} [Category.{v} C]
+
+/-- A precylinder for `A : C` is the data of a morphism
+`σ : I ⟶ A` equipped with two sections. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
`π : I ⟶ A` equipped with two sections. -/
```

File: Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean [hunk 13]
```diff
@@ -0,0 +1,268 @@
...
+end
+
+@[simp, reassoc]
+lemma symm_i [HasBinaryCoproducts C] : P.symm.i =
+  (coprod.braiding A A).hom ≫ P.i := by aesop_cat
+
+end Precylinder
+
+/-- In a category with weak equivalences, a cylinder is the
+data of a weak equivalence `σ : I ⟶ A` equipped with two sections -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/ModelCategory/Cylinder.lean]:
```suggestion
data of a weak equivalence `π : I ⟶ A` equipped with two sections -/
```

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
